US05786378
1- (1,2-dioxo-3, 3-dimethylpentyl) -2-piperidine- carboxylic acid.
A mixture of methyl 1-(1,2-dioxo-3,3-dimethylpentyl)-2-piperidinecarboxylate (3.30 g; 12.25 mmol), 1 N LiOH (15 mL), and methanol (60 mL) was stirred at 0° C. for 30 minutes and at room temperature overnight. The mixture was acidified to pH 1 with 1 N HCl, diluted with water, and extracted into 100 mL of methylene chloride. The organic extract was washed with brine and concentrated to deliver 2.80 g (87%) of snow-white solid which did not require further purification, 1H NMR (CDCl3): δ 0.89 (t, 3H) ; 1.21, 1.24 (s, 3H each); 1.42-1.85 (m, 7H); 2.35 (m, 1H); 3.22 (d, 1H); 3.42(m, 1H); 5.31 (d, 1H).

reactant | methyl 1-(1,2-dioxo-3,3-dimethylpentyl)-2-piperidinecarboxylate | 12.25 mmol, 3.30 g | O=C(C(C(CC)(C)C)=O)N1C(CCCC1)C(=O)OC | C14H23NO4
reactant | LiOH | 1 N, 15 mL | [Li+].[OH-]
reactant | methanol | 60 mL | CO | CH4O
reactant | HCl | 1 N | Cl | ClH
solvent | water | O | H2O
product | 1- (1,2-dioxo-3, 3-dimethylpentyl) -2-piperidine- carboxylic acid | O=C(C(C(CC)(C)C)=O)N1C(CCCC1)C(=O)O | C13H21NO4
